US05292452
A suspension of 21 g of anhydrous (methoxymethyl)triphenylphosphonium chloride in 100 ml of abs. diethyl ether is treated with 6.86 g of potassium tert.-butylate at 0° C. in a nitrogen atmosphere. The red suspension is stirred at 0° C. for 15 minutes and then treated dropwise at 5°-10° C. with a solution of 7.9 g of trans-4-(1E-pentenyl)cyclohexanecarboxaldehyde in 30 ml of diethyl ether. The mixture is stirred at room temperature for 4 hours, washed with 40 ml of ice-cold saturated sodium hydrogen carbonate solution and twice with 50 ml of water each time, dried over sodium sulphate, filtered and concentrated. The residue is dissolved in 100 ml of hexane and 40 ml of 80 percent aqueous methanol. The hexane phase is washed with 10 ml of 80 percent aqueous methanol and 20 ml of water, dried over sodium sulphate and concentrated. Distillation of the residue in a vacuum yields trans-1-(2-methoxy-vinyl)-4-(1E-pentenyl)cyclohexane as a colourless oil.

reactant | (methoxymethyl)triphenylphosphonium chloride | 21 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | trans-4-(1E-pentenyl)cyclohexanecarboxaldehyde | 7.9 g | C(=C\CCC)/[C@@H]1CC[C@H](CC1)C=O | C12H20O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | trans-1-(2-methoxy-vinyl)-4-(1E-pentenyl)cyclohexane | COC=C[C@@H]1CC[C@H](CC1)\C=C\CCC | C14H24O
